US05084459
On a water bath at about 20° C., a solution of 1.44 g of methyl isothiocyanate in 2 ml of dichloromethane was added dropwise to a mixture of 2.81 g of 2-chloro-5-(methylaminomethyl)pyridine and 10 ml of dichloromethane over a period of 10 minutes and the whole mixture was further stirred for 30 minutes. The reaction mixture was then concentrated and the residue was purified by column chromatography (eluent: dichloromethane-methanol (20:1)) to give 3.33 g of 1-(6-chloro-3-pyridylmethyl)-1,3-dimethylthiourea.

reactant | methyl isothiocyanate | 1.44 g | CN=C=S | C2H3NS
reactant | 2-chloro-5-(methylaminomethyl)pyridine | 2.81 g | ClC1=NC=C(C=C1)CNC | C7H9ClN2
reactant | dichloromethane | 2 ml | ClCCl | CH2Cl2
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-(6-chloro-3-pyridylmethyl)-1,3-dimethylthiourea | 3.33 g | ClC1=CC=C(C=N1)CN(C(=S)NC)C | C9H12ClN3S
